* C:\Users\conor\Documents\College\Masters\Circuit_Design\Test.asc
* Generated by LTspice 24.1.8 for Windows.
X§X1 V+ V- Sig1 Sig2 Vout Instrument params: R1=140k R2=10Meg Rc=10Meg Cc=330n R3=10Meg R4=10Meg C4=800p C1=10u
X§U1 N001 common Sig2 opamp Aol=100K GBW=10Meg
R2 Sig2 N001 10k
R3 N001 Sig1 10k
V1 Sig1 common SINE(0 10m 10) AC 1 0
V2 common 0 SINE(10m 5)
R1 0 Vout 10k
V3 V+ 0 10
V4 0 V- 10

* block symbol definitions
.subckt Instrument +Vcc -Vcc Vin1 Vin2 Vo
X§U1 N001 N004 +Vcc -Vcc N002 OP27
X§U2 N009 N007 +Vcc -Vcc N008 OP27
X§U3 N003 N006 +Vcc -Vcc Vo OP27
R1 N004 N005 {R1} tol=1
C1 N005 N007 {C1}
R2 N008 N007 {R2}
R3b N006 N008 {R3} tol=1
R3a N003 N002 {R3} tol=1
R2b N002 N004 {R2} tol=1
RCa 0 N001 {Rc}
CCa N001 Vin1 {Cc}
CCb N009 Vin2 {Cc}
RCb N009 0 {Rc}
R4b Vo N006 {R4} tol=1
C4b Vo N006 {C4}
R4a 0 N003 {R4} tol=1
C4a 0 N003 {C4}
.param R1=140k R2=10Meg Rc=10Meg Cc=330n R3=10M R4=10Meg C4=800p C1=10u
.ends Instrument

* .tran 100m
.ac dec 20 0.1 500
.lib ADI.lib
.lib opamp.sub
.backanno
.end
